US07439396B2
Synthesis of 4-[2-(3-tert-Butyl-4-diethylaminophenyl)-2-hydroxyiminoethoxy]benzoic acid:
550 mg (1.4 mmol) of methyl 4-[2-(3-tert-butyl-4-diethylaminophenyl)-2-hydroxyiminoethoxy]benzoate are dissolved in 10 ml of THF. 1 ml of methanol is added, followed by addition of 164 mg (4 mmol) of powdered sodium hydroxide and 100 μl water. The reaction medium is stirred at room temperature for 12 hours and then treated with saturated ammonium chloride solution. The aqueous phase is returned to pH 5 by adding 1N hydrochloric acid, and is extracted twice with ethyl acetate. The residue obtained is purified by chromatography on a column of silica (eluent: 80/20 and then 50/50 heptane/heptane). The final product is then recrystallized from a heptane/acetone system. A white crystalline solid is obtained (m.p.=185° C., m=245 mg, yield=44%); (1H NMR (CDCl3): 1.04-1.07 (t, 6H); 1.45 (s, 9H); 2.89 (m, 4H); 5.36 (s, 2H); 7.00-7.02 (d, J=8.8 Hz, 2H); 7.22-7.25 (d, J=8.3 Hz, 1H); 7.44-7.46 (dd, J=6.2 Hz, J′=2.06 Hz, 1H); 7.72 (d, J=2.0 Hz, 1H); 8.03-8.05 (d, J=8.74 Hz, 2H)).

reactant | methyl 4-[2-(3-tert-butyl-4-diethylaminophenyl)-2-hydroxyiminoethoxy]benzoate | 1.4 mmol, 550 mg | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C(COC1=CC=C(C(=O)OC)C=C1)=NO | C24H32N2O4
reactant | sodium hydroxide | 4 mmol, 164 mg | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 100 μl | O | H2O
solvent | methanol | 1 ml | CO | CH4O
product | 4-[2-(3-tert-Butyl-4-diethylaminophenyl)-2-hydroxyiminoethoxy]benzoic acid | C(C)(C)(C)C=1C=C(C=CC1N(CC)CC)C(COC1=CC=C(C(=O)O)C=C1)=NO | C23H30N2O4
